US06780878B2
To a suspension of 10.0 g of LAN in 500 mL of dry THF, at room temperature, was added portionwise 39.7 g of 1-isopropylpiperidine-4-carboxamide and the mixture was refluxed 18 h. The cooled reaction mixture was diluted with 150 mL THF and treated dropwise with 10 mL H2O and 10 mL 5 N NaOH, respectively. The resulting gray mixture was refluxed 18 h, filtered and evaporated. The residue partially dissolved in hexane to give 25.5 g of crude yellow liquid and 6.9 g hexane insoluble starting carboxamide. HPLC purification on silica gel of the 25.5 g liquid, eluting with 20% MeOH-EtOAc gave 1-isopropylpiperidine-4-methylamine (8.5 g, 28%).

reactant | 1-isopropylpiperidine-4-carboxamide | 39.7 g | C(C)(C)N1CCC(CC1)C(=O)N | C9H18N2O
reactant | H2O | 10 mL | O | H2O
reactant | NaOH | 5 N, 10 mL | [OH-].[Na+]
solvent | THF | 500 mL | C1CCOC1 | C4H8O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 1-isopropylpiperidine-4-methylamine | 8.5 g, 28% | C(C)(C)N1CCC(CC1)CN | C9H20N2
